US06348032B1
A suspension is prepared by adding 6-carboxy-1-(2-chlorobenzyl)-2-cyclopropylbenzimidazole (390 mg) to methylene chloride (10 ml) which includes N,N-dimethylformamide (one drop). Oxalyl chloride (0.208 ml) is dripped into the suspension over a period of a few minutes at room temperature. After stirring for two hours at the same temperature, the mixed material is concentrated under reduced pressure. Isopropyl ether is added to the residue, which is then turned into powder. Thus, white powder of 1-(2-chlorobenzyl)-6-chlorocarbonyl-2-cyclopropylbenzimidazole hydrochloride (450 mg) is obtained. Because this material is unstable, it is used as a source material for the next process without purification.

reactant | 6-carboxy-1-(2-chlorobenzyl)-2-cyclopropylbenzimidazole | 390 mg | C(=O)(O)C=1C=CC2=C(N(C(=N2)C2CC2)CC2=C(C=CC=C2)Cl)C1 | C18H15ClN2O2
reactant | Oxalyl chloride | 0.208 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-chlorobenzyl)-6-chlorocarbonyl-2-cyclopropylbenzimidazole hydrochloride | 450 mg | Cl.ClC1=C(CN2C(=NC3=C2C=C(C=C3)C(=O)Cl)C3CC3)C=CC=C1 | InChI=1S/C18H14Cl2N2O.ClH/c19-14-4-2-1-3-13(14)10-22-16-9-12(17(20)23)7-8-15(16)21-18(22)11-5-6-11;/h1-4,7-9,11H,5-6,10H2;1H
